US05488188
Preparation of (E)-1-amino-2-(fluoromethylene)-4-(p-fluorophenyl)butane
Combine (E)-N-(2-(fluoromethylene)-4-(p-fluorophenyl)butyl)-N-formyl formamide (8.0 g, 32.7 mmol), ethanol (19.9 g), water (29.8 g), and aqueous 12M hydrochloric acid solution (13.1 g). Heat to reflux. After 1 hour, add toluene (29.8 g). Cool to 25° C. Separate the layers. Distill the aqueous layer until the volume is reduced by about two thirds. Cool to 50° C. Add concentrated aqueous hydrochloric acid solution (50 g). Cool to -5° C., filter , rinse with toluene, and dry in vacuo at 60° C. to give a solid. Recrystallize the solid from isopropyl acetate, filter, and dry in vacuo at 43° C. to give the title compound: mp 130°-131.5° C. 1H NMR (D20, 300 MHz) 8 2.50 (m, 2H), 2.79 (m, 2H), 3.47 (d, J=3.0 Hz, 2H), 6.80 (d, J=81.9 Hz, 1H), 7.09 (m, 2H), 7.28 (m, 2H).

reactant | (E)-N-(2-(fluoromethylene)-4-(p-fluorophenyl)butyl)-N-formyl formamide | 32.7 mmol, 8.0 g | F\C=C(\CN(C=O)C=O)/CCC1=CC=C(C=C1)F | C13H13F2NO2
reactant | ethanol | 19.9 g | C(C)O | C2H6O
reactant | water | 29.8 g | O | H2O
reactant | hydrochloric acid | 12M, 13.1 g | Cl | ClH
solvent | toluene | 29.8 g | C1(=CC=CC=C1)C | C7H8
product | (E)-1-amino-2-(fluoromethylene)-4-(p-fluorophenyl)butane | NC/C(/CCC1=CC=C(C=C1)F)=C/F | C11H13F2N
